US05306830
Preparation of Intermediate 8-Bromo-5-methoxy-3-chromanone
To a solution consisting of dry pyridine and CH2Cl2 (120 ml, dried over P2O5) CrO3 (435 mg, 4.35 mmol) was added. The mixture was stirred for 15 min and 8-bromo-5-methoxy-3-chromanol (293 mg, 1.13 mmol) was dissolved in 10 ml dry CH2Cl2 was added and immediately thereafter acetic acid anhydride (0.41 ml, 4.35 mmol) was added to the solution. The mixture was stirred for 10 min and then sucked through a short silica column (13 g SiO2) with vacuum. The column was washed with CH2Cl2 and the solvent evaporated yielding 237 mg (81%) of the product. An analytic sample was obtained from recrystallization in light petroleum-ether, m.p. 97°-100° C. 1H NMR (CHCl3) δ 3.55 (s,2H), 3.80 (s,3H), 4.45 (s,2H), 6.5 (d,1H), 7.4 (d,1H). GC/M (HP-5970A) m/e=258 (64) M+1, 256 (57) M-1, 134 (100), 50 (11), 76 (11).

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 8-bromo-5-methoxy-3-chromanol | 1.13 mmol, 293 mg | BrC=1C=CC(=C2CC(COC12)O)OC | C10H11BrO3
reactant | acetic acid anhydride | 4.35 mmol, 0.41 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | 8-Bromo-5-methoxy-3-chromanone | 237 mg, 81% | BrC=1C=CC(=C2CC(COC12)=O)OC | C10H9BrO3
